US05854179
e) 2-Ethylmercapto-5-formylaminobenzenesulfonamide
3.13 g of N-tert-butyl-2-ethylmercapto-5-formylaminobenzenesulfonamide are stirred in 20 ml of trifluoroacetic acid at room temperature. When the reaction has ended, volatile components are distilled off under a high vacuum. 3.20 g of a solid which has an adequate purity for further reactions are thus obtained; melting point: 127° C.

reactant | N-tert-butyl-2-ethylmercapto-5-formylaminobenzenesulfonamide | 3.13 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NC=O)SCC | C13H20N2O3S2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Ethylmercapto-5-formylaminobenzenesulfonamide | C(C)SC1=C(C=C(C=C1)NC=O)S(=O)(=O)N | C9H12N2O3S2
